US07300944B2
2-tert-Butyl-5-(3,3-dimethoxy-cyclobutyl)-2H-pyrazol-3-ylamine
To a slurry of tert-butylhydrazine hydrochloride (45.1 g, 362.0 mmol) in EtOH (1 L) was added NaOH pellets (12.4 g, 310.3 mmol). After 30 min, crude 3-(3,3-dimethoxy-cyclobutyl)-3-oxo-propionitrile in EtOH (300 mL) was added. The resulting slurry was heated to 75° C. (oil bath). After 14 hr, the reaction was cooled to room temperature, filtered, and concentrated under reduced pressure. Isopropyl ether was added to the resulting slurry. The slurry was stirred for 15 min, filtered, and concentrated to yield a viscous oil. Trituration with ether/hexanes (several crops) gave the title compound (56.2 g, 86% yield over two steps) as a colorless solid: mp 80.9° C. 500 MHz 1H NMR (CDCl3) d 5.50 (s, 1H), 3.51 (bs, 2H), 3.18 (s, 3H), 3.16 (s, 3H), 3.19-3.14 (m, 1H), 2.60-2.54 (m, 2H), 2.20-2.14 (m, 2H), 1.59 (s, 9H). LRMS m/z (APCI+) 254 (M+1).

reactant | tert-butylhydrazine hydrochloride | 362.0 mmol, 45.1 g | Cl.C(C)(C)(C)NN
reactant | NaOH | [OH-].[Na+]
reactant | 3-(3,3-dimethoxy-cyclobutyl)-3-oxo-propionitrile | COC1(CC(C1)C(CC#N)=O)OC | C9H13NO3
solvent | EtOH | 1 L | CCO | C2H6O
solvent | EtOH | 300 mL | CCO | C2H6O
product | 2-tert-Butyl-5-(3,3-dimethoxy-cyclobutyl)-2H-pyrazol-3-ylamine | 56.2 g, 86% yield | C(C)(C)(C)N1N=C(C=C1N)C1CC(C1)(OC)OC | C13H23N3O2
